US04877732
8 liters of YEM in a fermenter were inoculated with a 20 h shake culture of P. putida NCIB 12190 (stock slant derived from a shake culture grown on benzene) grown on the same medium (50 ml). The organism was grown at 500 rpm; 500 ml air/min for 20 h, with a continuous feed of concentrated nutrient (disodium succinate (320 g) and (NH4)2SO4 (64 g) in 1 liter of 0.025M potassium phosphate buffer pH 7.2) at 40 ml/h, reach a dry cell weight of 2.8 g/l. The aeration was then increased (550 rpm; 750 ml air/min) for 1 hr giving an oxygen tension of 20-30% air-saturated. Benzotrifluoride was then added at 50 μl/min via an HPLC pump. Using these settings no product was found in the reaction mixture by GLC. It was thus concluded that the combination of low substrate solubility and high aeration was stripping substrate into the exhaust gas before a high enough concentration could be reached for the reaction to occur. To reduce this effect while still maintaining an adequate oxygen tension (>30%) the stirrer speed was raised to 650 rpm while aeration was reduced to 300 ml/min. 5 g of substrate was added batchwise while still maintaining a flow of 50 μl/min. Product formation commenced immediately as judged by GLC and reached-0.3 g/l after 60 min. Further additions of substrate (5 ml) were made at approximately 2 h intervals while maintaining the continuous addition (50 μl/min). The product concentration reached 1.25 g/l after approximately 6 h at which point the run was terminated. The product was adsorbed onto charcoal followed by stripping in a Soxhlet apparatus (Et2O:MeOH 3:1). Evaporation of the solvent yielded about 60 ml of aqueous solution of trifluoromethylcyclohexa-3,5-diene which crystallised upon addition of a trace of NaCl. Recrystallisation from Et2O:petrol 1:4 yielded approximately 12 g (=1.5 g/l) of pure trifluoromethylcyclohexa-3,5-diene.

reactant | Benzotrifluoride | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | oxygen | O=O | O2
product | trifluoromethylcyclohexa-3,5-diene | FC(F)(F)C1CC=CC=C1 | C7H7F3
